US09216181B2
To prepare the 10 mM stock solution of PS1, 1 mg of PS1 having a molecular weight of 618.8 was added to 162 μl of DMSO. For preparing the 50 mM stock solution of ebastine, 10 mg of ebastine having a molecular weight of 469.66 was added to 426 μl of DMSO. In preparing the 25 mM solution of carebastine, 1 mg of carebastine having a molecular weight of 499.65 was added to 80μ of DMSO. To obtain the 50 mM terfenadine stock solution 1.5 mg of terfenadine having a molecular weight of 471.7 was added to 64 μl of ETOH. To prepare the 50 mM stock solution of fexofenadine, 10 mg of fexofenadine chloride having a molecular weight of 538.12 was added to 372 μl of DMSO. Further, to prepare the 50 mM stock solution of astemizole, 10 mg of astemizole having a molecular weight of 458.57 was added to 436 μl of DMSO. Table 10 then lists the preparation of the solutions for use in the tests above.

reactant | ebastine | CC(C)(C)C=1C=CC(=CC1)C(=O)CCCN2CCC(CC2)OC(C=3C=CC=CC3)C=4C=CC=CC4 | C32H39NO2
reactant | ebastine | 10 mg | CC(C)(C)C=1C=CC(=CC1)C(=O)CCCN2CCC(CC2)OC(C=3C=CC=CC3)C=4C=CC=CC4 | C32H39NO2
reactant | carebastine | CC(C)(C=1C=CC(=CC1)C(=O)CCCN2CCC(CC2)OC(C=3C=CC=CC3)C=4C=CC=CC4)C(=O)O | C32H37NO4
reactant | carebastine | 1 mg | CC(C)(C=1C=CC(=CC1)C(=O)CCCN2CCC(CC2)OC(C=3C=CC=CC3)C=4C=CC=CC4)C(=O)O | C32H37NO4
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 426 μl | CS(=O)C | C2H6OS
solvent | DMSO | 162 μl | CS(=O)C | C2H6OS
product | terfenadine | 1.5 mg | CC(C)(C)C=1C=CC(=CC1)C(CCCN2CCC(CC2)C(C=3C=CC=CC3)(C=4C=CC=CC4)O)O | C32H41NO2
